US09302991B2
<Step-1>:5-chloro-6-(2,2-difluoroethoxy)nicotinic acid
The title compound is prepared in 83% yield (4.12 g, a white solid) from 5,6-dichloronicotinic acid (4.00 g, 20.8 mmol) and 2,2-difluoroethanol instead of 2,2,2-trifluoroethanol by the similar manner in Step-1 of Amine-1.

reactant | 5,6-dichloronicotinic acid | 20.8 mmol, 4.00 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | 2,2-difluoroethanol | FC(CO)F | C2H4F2O
product | 5-chloro-6-(2,2-difluoroethoxy)nicotinic acid | 83% yield | ClC=1C(=NC=C(C(=O)O)C1)OCC(F)F | C8H6ClF2NO3
